US05055451
N-Benzyloxycarbonyl-L-phenylalanyl-L-alanine 2,6-dimethylphenoxymethyl Ketone
N-Benzyloxycarbonyl-L-phenylalanyl-L-alanine bromomethyl ketone (50 mg, 0.11 mmol) and 2,6-dimethylphenol (14 mg) were dissolved in dry DMF (5 mL) and blanketed with argon gas. The solution was treated with potassium iodide on alumina (80 mg, KF-alumina, 2:3) and stirred overnight at room temperature. Ethyl acetate was added and the inorganic salts were removed by filtration. The organic filtrate was washed with saturated NaCl solution (4×25 mL), then dried over anhydrous sodium sulfate. The solvent was evaporated and the residue was applied to a silica gel column. Then N-benzyloxycarbonyl-L-phenylalanyl-L-alanine 2,6-dimethylphenoxymethyl ketone was eluted with EtOAc/hexane (1:1) under pressure. Evaporation gave a white solid (30 mg, 49%), m.p. 167°-168° C.

reactant | N-Benzyloxycarbonyl-L-phenylalanyl-L-alanine bromomethyl ketone | 0.11 mmol, 50 mg | BrCC(=O)CBr.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O
reactant | 2,6-dimethylphenol | 14 mg | CC1=C(C(=CC=C1)C)O | C8H10O
reactant | potassium iodide | [I-].[K+]
reactant | Ethyl acetate | C(C)(=O)OCC | C4H8O2
reactant | DMF | 5 mL | CN(C)C=O | C3H7NO
product | N-Benzyloxycarbonyl-L-phenylalanyl-L-alanine 2,6-dimethylphenoxymethyl Ketone | 30 mg, 49% | CC1=C(OCC(=O)COC2=C(C=CC=C2C)C)C(=CC=C1)C.C(C1=CC=CC=C1)OC(=O)N[C@@H](CC1=CC=CC=C1)C(=O)N[C@@H](C)C(=O)O | InChI=1S/C20H22N2O5.C19H22O3/c1-14(19(24)25)21-18(23)17(12-15-8-4-2-5-9-15)22-20(26)27-13-16-10-6-3-7-11-16;1-13-7-5-8-14(2)18(13)21-11-17(20)12-22-19-15(3)9-6-10-16(19)4/h2-11,14,17H,12-13H2,1H3,(H,21,23)(H,22,26)(H,24,25);5-10H,11-12H2,1-4H3/t14-,17-;/m0./s1
